Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Patient not back to baseline after last seizure.  
 
Major Surgical or Invasive Procedure:
EEG
 
History of Present Illness:
___ yo, male , with history of TBI resulting in epilepsy. 
The parents note that the patients usual seizures consist of
right arm turning with shaking of his head.  The episodes at
times then become tonic clonic in nature.  Mom notes that in
___ the seizures changed and the patient began
having staring epiosodes preceded by the patient becoming pale. 
After the episodes it takes 12 hours to come back to base line. 
Mom notes that in general the patient takes two weeks to be
himself again, but now it has been a month and the patient is
still not acting like himself.  The patient does not know when 
he
is going to have a seizure.  Recently he has been experiencing
crackles in his brain.  He notes feeling and hearing crackles. 
Seizures have increased over the last few months.  
  The last seizure was noted on ___ when the patient was 
found
unresponsive in the shower.  Mom notes that the patient was
working out in the gym really hard that day. After coming to the
patient had a generalized tonic clonic event.  They went to the
ED and sodium was 128 compared to his normal of 130.  At that
point zonisamide was increased. No recent illness, or fever. No
change in brand of medication. Zonisamide increased after last
seizure.  
  The patient is here today per Dr. ___ for 
subclinical
seizure activity with the goal of weaning Keppra and adjusting
the Zonisamide.  The other reason for admission was to evaluate 
due to mom noting him not being back to baseline. The plan is 
also to have a baseline MRI. 

 
Past Medical History:
In ___ the patient was in a car accident(car hydroplaned
into a fence and piece of wood was embeded into patients left
side of his head), causing hemiplegia of the right side,
Epilepsy, TBI, hyperlipidemia. 

 
Social History:
___
Family History:
Family History:  Mother ___ yo, hypercholesterolemia, htn, 
asthma.
                 Father ___ yo, hypercholetsrolemia, htn, DM. 
  No history of epilepsy

 
Physical Exam:
Gen: patient sitting up in bed, interactive with examiner, 
HEENT:MMM, no adenopathy, 
CV:NL S1/S2, RRR
Lungs:CTA b/l, 
Abd:soft, non-tender, normal bowel sounds 
Neuro: patient oriented to person, knows month, and date, knows
the season, can not repeat words, does not know days of the 
week,

EOMI, saccadic intrusion on smooth persuit, horizontal 
nystagmus,
PERRLA, right facial assymetry, midline uvula, symmetric
elevation of the palate,
Motor: right fist contracted, right hamstring strength ___, 
right
plantar and dorsiflexion ___, upgoing right toe, no clonus,
rigidity of right lower extremity, right pronator drift
Sensory: intact bilaterally, 
DTR:+3 bicept, tricept, patella, and ankle jerk, crossed
adduction noted. 
Cb:  left sided finger to nose has no dysmetria or ataxia.       


 
Pertinent Results:
___ 07:15PM   GLUCOSE-92 UREA N-10 CREAT-0.8 SODIUM-133 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-28 ANION GAP-11
___ 07:15PM   estGFR-Using this
___ 07:15PM   CALCIUM-9.7 PHOSPHATE-3.4# MAGNESIUM-2.2
___ 07:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:15PM   WBC-5.2 RBC-4.41* HGB-14.4 HCT-42.2 MCV-96 
MCH-32.6* MCHC-34.1 RDW-12.6
___ 07:15PM   PLT COUNT-293
___ 07:10PM URINE  HOURS-RANDOM
___ 07:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
 
Brief Hospital Course:
___ yo, male , with history of TBI resulting in epilepsy. 
The parents note that the patients usual seizures consist of
right arm turning with shaking of his head.  The episodes at
times then become tonic clonic in nature.  Mom notes that in
___ the seizures changed and the patient began
having staring epiosodes preceded by the patient becoming pale. 
After the episodes it takes 12 hours to come back to base line. 
Mom notes that in general the patient takes two weeks to be
himself again, but now it has been a month and the patient is
still not acting like himself.  The patient does not know when 
he
is going to have a seizure.  Recently he has been experiencing
crackles in his brain.  He notes feeling and hearing crackles. 
Seizures have increased over the last few months.  
  The last seizure was noted on ___ when the patient was 
found
unresponsive in the shower.  Mom notes that the patient was
working out in the gym really hard that day. After coming to the
patient had a generalized tonic clonic event.  They went to the
ED and sodium was 128 compared to his normal of 130.  At that
point zonisamide was increased. No recent illness, or fever. No
change in brand of medication. Zonisamide increased after last
seizure.  
  The patient is here today per Dr. ___ for 
subclinical
seizure activity with the goal of weaning Keppra and adjusting
the Zonisamide.  The plan is also to have a baseline MRI. 
  Since coming to the hospital it was noted that the patient 
continues to have subclinical seizures at night.  The patient 
was slowly weaned off Keppra and Zonisamide was titrated up.  An 
MRI was also performed.  The patient continued to be stable 
clinically. 
  On ___ the patient was noted to have a seizure per mom.  He 
did not hit his head and mom noted he was back to his baseline 
much sooner than usual.  
 The patient has an appointment with ___ 0n ___ 
at 11 am.  
     
 
Medications on Admission:
Fluoxetine 20 mg PO Daily
      Leviteracetam 750 mg PO BID
      Oxcarbazapine 1200 mg PO BID
      Zonisamide 400 mg PO Daily
      Simvastatin 40 mg PO Daily

 
Discharge Medications:
Fluoxetine 20 mg PO Daily
Oxcarbazapine 1200 mg PO BID
Zonisamide 600 mg PO Daily
Simvastatin 40 mg PO Daily

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy
 
Discharge Condition:
Stable
 
Discharge Instructions:
Please follow up with out patient epileptologist.
Please continue adjusted doses of medications.
You were admitted as your thinking wasn't as clear after your 
seizure in ___, and we wanted to make sure you weren't having 
continuous seizures.  You were monitored with long-term EEG.  
You were titrated off your Keppra, and Zonegran was increased to 
600 mg daily.  You also had an MRI of your brain. You were given 
a prescription for Ativan 1 mg to be taken after a prolonged 
seizure and after discussion with your epilepsy doctor.
 
Followup Instructions:
___